US07157487B2
In EtOH (8 ml), 1-naphthaldehyde (263 mg, 1.68 mmol) and methyl 4-amino-3-hydroxyphenylacetate (305 mg, 1.68 mmol) were stirred at room temperature for 12 hours. Iodobenzene diacetate (651 mg, 2.02 mmol) was added to the reaction mixture, followed by stirring at room temperature for 5 minutes. After removal of the solvent by distilling the reaction mixture under reduced pressure, the residue was purified by chromatography on a silica gel column, whereby from n-hexane/ethyl acetate (6:1, v/v) eluate fractions, methyl (2-(1-naphthyl)-6-benzoxazolyl)acetate (223 mg, 42%) was obtained as a pale yellow solid.

reactant | 1-naphthaldehyde | 1.68 mmol, 263 mg | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | methyl 4-amino-3-hydroxyphenylacetate | 1.68 mmol, 305 mg | NC1=C(C=C(C=C1)CC(=O)OC)O | C9H11NO3
reactant | Iodobenzene diacetate | 2.02 mmol, 651 mg | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
solvent | EtOH | 8 ml | CCO | C2H6O
product | methyl (2-(1-naphthyl)-6-benzoxazolyl)acetate | 223 mg, 42% | C1(=CC=CC2=CC=CC=C12)C=1OC2=C(N1)C=CC(=C2)CC(=O)OC | C20H15NO3
